US08114872B2
3-(1-Azidoethyl)-4-(benzo[b]thiophen-7-yl) pyridine
Using a procedure similar to the one used for 5-(1-azido-ethyl)-2-fluoro-pyridine above, prepare the title intermediate from 1-(4-(benzo[b]thiophen-7-yl)pyridin-3-yl)ethanol as a brown oil (0.66 g, 93%). MS (ES) m/z 280 [M+1]+.

reactant | 5-(1-azido-ethyl)-2-fluoro-pyridine | N(=[N+]=[N-])C(C)C=1C=CC(=NC1)F | C7H7FN4
reactant | 1-(4-(benzo[b]thiophen-7-yl)pyridin-3-yl)ethanol | 0.66 g | S1C2=C(C=C1)C=CC=C2C2=C(C=NC=C2)C(C)O | C15H13NOS
product | 3-(1-Azidoethyl)-4-(benzo[b]thiophen-7-yl) pyridine | N(=[N+]=[N-])C(C)C=1C=NC=CC1C1=CC=CC2=C1SC=C2 | C15H12N4S
